US09212180B2
A CHCl3 (4.78 mL, 0.25 M) solution of 4-(3-(4-(cyclopentyl(hydroxy)(phenyl)methyl)piperidin-1-yl)propoxy)benzonitrile (0.5 g, 1.19 mmol) and sodium azide (1.16 g, 17.9 mmol) was cooled to 0° C. To the solution H2SO4 was added dropwise (0.28 mL, 9.3 mmol). The mixture was allowed to warm to rt over 4 h with stirring, then re-cooled to 0° C. and treated with NH4OH till pH was basic. The biphasic solution was extracted with DCM (3×) and the organic layers combined and dried over MgSO4. Concentration under reduced pressure and drying in vacuo afforded a crude oil. Purification by flash chromatography (DCM, MeOH, NH4OH) afforded 4-(3-(4-(azido(cyclopentyl)(phenyl)methyl)piperidin-1-yl)propoxy)benzonitrile (45 mg, 10%): LC-MS (>98%) m/z=444.3 [M+H].

reactant | 4-(3-(4-(cyclopentyl(hydroxy)(phenyl)methyl)piperidin-1-yl)propoxy)benzonitrile | 1.19 mmol, 0.5 g | C1(CCCC1)C(C1CCN(CC1)CCCOC1=CC=C(C#N)C=C1)(C1=CC=CC=C1)O | C27H34N2O2
reactant | sodium azide | 17.9 mmol, 1.16 g | [N-]=[N+]=[N-].[Na+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NH4OH | [NH4+].[OH-]
solvent | CHCl3 | 0.25 M, 4.78 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-(4-(azido(cyclopentyl)(phenyl)methyl)piperidin-1-yl)propoxy)benzonitrile | 45 mg, 10% | N(=[N+]=[N-])C(C1CCN(CC1)CCCOC1=CC=C(C#N)C=C1)(C1=CC=CC=C1)C1CCCC1 | C27H33N5O
